US07687532B2
Intermediate 6: 1,1-Dimethylethyl 4-(6-bromo-1H-indazol-3-yl)-1-piperazinecarboxylate
A solution of 6-bromo-2-nitro-2H-indazole (50 mg) and 1,1-dimethylethyl 1-piperazinecarboxylate (107 mg) in THF (1 ml) was stirred at reflux for 18 h. Additional 1,1-dimethylethyl 1-piperazinecarboxylate (107 mg) and DMAP (˜10 mg) were added and heating was continued for 24 h. The mixture was diluted with methanol then purified by reverse phase preparative HPLC to give the title compound as a yellow oil (28 mg).

reactant | 6-bromo-2-nitro-2H-indazole | 50 mg | BrC=1C=CC2=CN(N=C2C1)[N+](=O)[O-] | C7H4BrN3O2
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 107 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 107 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | DMAP | ˜10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methanol | CO | CH4O
product | 1,1-Dimethylethyl 4-(6-bromo-1H-indazol-3-yl)-1-piperazinecarboxylate | 28 mg | BrC1=CC=C2C(=NNC2=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H21BrN4O2
